US05536737
a) (S)-1-(tert-Butoxycarbonyl)-2-[2-(ethoxycarbonyl)-1-hydroxyethyl]pyrrolidine
A 1.6M n-hexane solution (23.5 ml) of n-butyl lithium was added to a THF solution (5 ml) of diisopropyl amine (5.3 ml) under an argon atmosphere at -40° C., and the mixture was stirred for 5 minutes and 30 minutes under ice-cooling. After cooling to -78° C., ethyl acetate (3.7 ml) was dropwise added, and the mixture was stirred for 15 minutes. A THF solution (18 ml) of N-(tert-butoxycarbonyl)-L-prolinal (4.98 g) was dropwise added at -78° C. and the mixture was stirred for 1.5 hours. Saturated ammonium chloride (20 ml) was added, and the reaction mixture was allowed to reach room temperature. The reaction mixture was poured into water, and extracted with ether. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (eluent: n-hexane-ethyl acetate) to give the title compound (5.73 g).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropyl amine | 5.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-(tert-butoxycarbonyl)-L-prolinal | 4.98 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
reactant | ethyl acetate | 3.7 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | n-hexane | 1.6M, 23.5 ml | CCCCCC | C6H14
product | (S)-1-(tert-Butoxycarbonyl)-2-[2-(ethoxycarbonyl)-1-hydroxyethyl]pyrrolidine | 5.73 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CC(=O)OCC)O | C14H25NO5
